US08470839B2
Preparation of 4-amino-1-(3,5-difluorobenzoyl)-5-fluoro-1H-pyrimidin-2-one (13)
To an 8 mL screw-cap vial containing 4-amino-5-fluoro-pyrimidin-2-ol* (100 mg, 0.775 mmol) and acetonitrile (CH3CN; 3 mL) was added bis-N,O-trimethylsilylacetamide (BSA; 378 microliters (μL), 1.55 mmol). The mixture was heated to 70° C. for 1 h resulting in a clear solution. After cooling to room temperature, 3,5-difluorobenzoyl chloride (182 μL, 1.55 mmol) was added, and the mixture was stirred at room temperature for 12 h. A white precipitate formed and was collected by vacuum filtration. The solid was washed with Et2O (1×10 mL) and air-dried overnight to yield the final product as a white solid (126 mg, 60%): mp 227-231° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.54 (br s, 1H), 8.27 (br s, 1H), 8.14 (d, J=6.8 Hz, 1H), 7.80-7.35 (m, 3H); ESIMS m/z 270 (M+H), 268 (M−H). *4-Amino-5-fluoro-pyrimidin-2-ol can be purchased commercially.

reactant | 4-amino-5-fluoro-pyrimidin-2-ol | NC1=NC(=NC=C1F)O | C4H4FN3O
reactant | 3,5-difluorobenzoyl chloride | 1.55 mmol, 182 μL | FC=1C=C(C(=O)Cl)C=C(C1)F | C7H3ClF2O
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 4-amino-1-(3,5-difluorobenzoyl)-5-fluoro-1H-pyrimidin-2-one | 126 mg, 60% | NC1=NC(N(C=C1F)C(C1=CC(=CC(=C1)F)F)=O)=O | C11H6F3N3O2
